US07691882B2
4-(5-(2,6-Diamino-pyridine-3-yl)-isoxazol-3-ylmethyl)-phenol
To a solution of 3-(3-(4-benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine (100 mg, 0.27 mmol) described in Example 13 in trifluoroacetic acid (3 mL) was added thioanisole (126 μL) at room temperature, which was stirred for 2 hours at room temperature. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction solution at 0° C., which was then extracted with ethyl acetate. The organic layer was washed with water and saturated aqueous sodium chloride, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to obtain the title compound (72.4 mg, 95%).

reactant | 3-(3-(4-benzyloxy-benzyl)-isoxazol-5-yl)-pyridin-2,6-diamine | 0.27 mmol, 100 mg | C(C1=CC=CC=C1)OC1=CC=C(CC2=NOC(=C2)C=2C(=NC(=CC2)N)N)C=C1 | C22H20N4O2
reactant | thioanisole | 126 μL | C1(=CC=CC=C1)SC | C7H8S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | trifluoroacetic acid | 3 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 4-(5-(2,6-Diamino-pyridine-3-yl)-isoxazol-3-ylmethyl)-phenol | 72.4 mg, 95% | NC1=NC(=CC=C1C1=CC(=NO1)CC1=CC=C(C=C1)O)N | C15H14N4O2
